US04536391
Trifluoroacetic acid (1.31 ml, 17 mmols) and 2.7 ml (33.3 mmols) of pyridine were added to a mixture of 5.51 g (33.3 mmols) of 2-(2-nitrophenyl)ethanol, 50 ml of dimethyl sulfoxide, 50 ml of benzene and 21 g (0.1 mol) of DCC. After stirring the mixture at room temperature for 4 hours, 300 ml of aqueous solution of 8.82 g (70 mmols) of oxalic acid dihydrate was added thereto. The resulting mixture was stirred at room temperature for 30 minutes and diluted with 500 ml of ethyl acetate. The organic layer was separated off, washed with saturated NaCl, dried over Na2SO4 and concentrated to obtain a yellow oil. The oil was subjected to silica gel column chromatography (95:5 benzene-ethyl acetate) to obtain 2-nitrophenylacetoaldehyde in the form of an unstable oil in an amount of 4.50 g (yield 81%).

reactant | Trifluoroacetic acid | 17 mmols, 1.31 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | pyridine | 33.3 mmols, 2.7 ml | N1=CC=CC=C1 | C5H5N
reactant | 2-(2-nitrophenyl)ethanol | 33.3 mmols, 5.51 g | [N+](=O)([O-])C1=C(C=CC=C1)CCO | C8H9NO3
reactant | DCC | 0.1 mol, 21 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | oxalic acid dihydrate | 70 mmols, 8.82 g | O.O.C(C(=O)O)(=O)O
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
solvent | benzene ethyl acetate | C1=CC=CC=C1.C(C)(=O)OCC
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
product | 2-nitrophenylacetoaldehyde | yield 81% | [N+](=O)([O-])C1=C(C=CC=C1)CC=O | C8H7NO3
